US07226951B2
3-Bromo-N-cyclopropyl-4-methyl-benzamide (Intermediate 95)
A stirred, cooled (ice bath) solution of 3-bromo-4-methyl-benzoic acid (Aldrich, 5 g, 23.25 mmol) in benzene (50 mL), dichloromethane (10 mL) and N,N-dimethylformamide (0.5 mL) was treated with oxalyl chloride (4 mL, 46.5 mmol). The reaction mixture was allowed to warm to ambient temperature over 3 h. The volatiles were then distilled off in vacuo, the residue was diluted with anhydrous dichloromethane (50 mL) under argon, cooled (ice bath) and treated with 4-(dimethylamino)pyridine (5.67 g, 46.5 mmol) followed by cyclopropyl amine (1.93 mL, 27.9 mmol). After 3 h, the reaction mixture was diluted with dichloromethane and washed with water. The organic phase was dried-over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title product that was used as such for the next step (6.0 g,˜100%).

reactant | 3-bromo-4-methyl-benzoic acid | 23.25 mmol, 5 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | oxalyl chloride | 46.5 mmol, 4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclopropyl amine | 27.9 mmol, 1.93 mL | C1(CC1)N | C3H7N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 46.5 mmol, 5.67 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Bromo-N-cyclopropyl-4-methyl-benzamide | BrC=1C=C(C(=O)NC2CC2)C=CC1C | C11H12BrNO
